US08222248B2
To a solution of 3,5-dimethyl-phenylamine (400 mg) in THF (35 mL) was added n-BuLi (1.45 mL, 2.5 M solution in hexane) at −78° C. The mixture was stirred at −78° C. for 20 min, allowed to warm up to −40° C. for 5 min, and then was cooled down to −78° C. again. After 10 min, B(OMe)3 (0.4 mL) was added dropwise. The mixture was stirred at −78° C. for 2.5 h, warmed up to 10° C. slowly, and then was cooled down to −78° C. again. Bromine (0.185 mL) was added dropwise to the mixture. The mixture was stirred at −78° C. for 1.5 h, and allowed to warm up to 0° C. for 1 h. The reaction was quenched with saturated NaHCO3 aqueous solution and 20% Na2S2O3 aqueous solution. The aqueous layer was extracted with EtOAc, and the organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=5:95 to 40:60) to give 4-bromo-3,5-dimethyl-phenylamine as a white solid: MS (m/z) 200 (M+1); 1H NMR (CDCl3, 400 MHz) δ 6.43 (s, 2H), 3.52 (s, 2H), 2.31 (s, 6H).

reactant | 3,5-dimethyl-phenylamine | 400 mg | CC=1C=C(C=C(C1)C)N | C8H11N
reactant | n-BuLi | 2.5 M, 1.45 mL | [Li]CCCC
reactant | B(OMe)3 | 0.4 mL | B(OC)(OC)OC | C3H9BO3
reactant | Bromine | 0.185 mL | BrBr | Br2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 4-bromo-3,5-dimethyl-phenylamine | BrC1=C(C=C(C=C1C)N)C | C8H10BrN
